US07842324B2
2-(2-fluorobiphenyl-4-yl)-N-(2-methoxyethyl)propanamide
Prepared in a similar manner to Example 3 from 2-(2-fluorobiphenyl-4-yl)propanoic acid and 2-methoxyethanamine. Yield: 50%. 1H NMR (500 MHz, CDCl3): δ 1.54-1.56 (d, 3H), 3.30 (s, 3H), 3.38-3.45 (m, 4H), 3.55 (q, 1H), 5.58 (s br, 1H), 7.11-7.16 (m, 2H), 7.36-7.45 (m, 5H), 7.54 (m, 2H).

reactant | 2-(2-fluorobiphenyl-4-yl)propanoic acid | FC1=C(C=CC(=C1)C(C(=O)O)C)C1=CC=CC=C1 | C15H13FO2
reactant | 2-methoxyethanamine | COCCN | C3H9NO
product | 2-(2-fluorobiphenyl-4-yl)-N-(2-methoxyethyl)propanamide | Yield: 50% | FC1=C(C=CC(=C1)C(C(=O)NCCOC)C)C1=CC=CC=C1 | C18H20FNO2
